US08044213B2
To a mixture of 0.037 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d), 0.060 g (0.2 mmole) of toluene-4-sulfonic acid 2-piperidin-1-yl-ethyl ester and 1 mL of dimethylformamide was added 0.160 g (0.5 mmole) of cesium carbonate. The reaction mixture was heated at 100 degrees for 3 hours. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 30:70-100:0) to give 0.027 g of 4-(3-chloro-phenyl)-2-[6-(2-piperidin-1-yl-ethoxy)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.27) as a white powder. MH+/Z=482

reactant | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.037 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
reactant | toluene-4-sulfonic acid 2-piperidin-1-yl-ethyl ester | 0.2 mmole, 0.060 g | N1(CCCCC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C14H21NO3S
reactant | cesium carbonate | 0.5 mmole, 0.160 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-[6-(2-piperidin-1-yl-ethoxy)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.027 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCCN2CCCCC2 | C24H24ClN5O2S
